US07989457B2
Step D. 1-(2-Methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptan-1-one
Dissolve 2-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methoxy-methyl-amide (0.58 g, 1.8 mmol) in tetrahydro-furan (10 mL). Add hexyl magnesium bromide (2.0M ethyl ether, 2.69 mL, 5.39 mmol) at 0° C. under inert atmosphere and stir 1.5 hours. Quench reaction with saturated solution of ammonium chloride, dilute with ethyl acetate. Wash organic phase with water then saturated sodium chloride solution. Dry organic fraction with Na2SO4, filter and concentrate under reduced pressure. Purify on silica gel chromatography (0-30% Ethyl acetate/hexanes gradient) to provide 0.518 g of title compound (83%).

reactant | 2-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methoxy-methyl-amide | 1.8 mmol, 0.58 g | CON(C(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)C | C17H16F3NO2
reactant | hexyl magnesium bromide | 5.39 mmol, 2.0M, 2.69 mL | C(CCCCC)[Mg]Br
reactant | water | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydro-furan | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptan-1-one | 0.518 g, 83% | CC1=C(C=CC(=C1)C(CCCCCC)=O)C1=CC=C(C=C1)C(F)(F)F | C21H23F3O
